US04973599
2-[(4-Nitrophenyl)thio]-1-phenyl-1H-imidazole
To a mixture of 0.6 g (13.6 mmoles) of 50% sodium hydride in mineral oil and 8 ml of N,N-dimethylformamide was added 2.0 g (11.4 mmoles) of 2-mercapto-1-phenylimidazole. After stirring for 10 minutes the mixture was cooled in an icebath and 2.1 g (14.8 mmoles) of 1-fluoro-4-nitrobenzene was added. After stirring for 20 minutes, the mixture was warmed to room temperature and stirred for 3 hours. Ice was added and the mixture partitioned between dichloromethane and water. The aqueous phase was separated and extracted with dichloromethane. The organics were dried and concentrated. The residue was recrystallized from dichloromethane/petroleum ether (bp 30°-60° C.) to give 0.9 g (27%) of the product as off-white prisms, mp 123°-125° C.

reactant | sodium hydride | 13.6 mmoles, 0.6 g | [H-].[Na+]
reactant | 2-mercapto-1-phenylimidazole | 11.4 mmoles, 2.0 g | SC=1N(C=CN1)C1=CC=CC=C1 | C9H8N2S
reactant | 1-fluoro-4-nitrobenzene | 14.8 mmoles, 2.1 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 2-[(4-Nitrophenyl)thio]-1-phenyl-1H-imidazole | 0.9 g, 27% | [N+](=O)([O-])C1=CC=C(C=C1)SC=1N(C=CN1)C1=CC=CC=C1 | C15H11N3O2S
